US09056874B2
7-Methyl-1H-indol-5-ol
Potassium nitrosodisulfonate (46.1 g, 172 mmol) was added to a 0.1 M aqueous solution of sodium phosphate at pH=7 (1 L) at room temperature. 7-Methylindoline (CAS #: 65673-86-1) (10.4 g, 78 mmol) was dissolved in 100 mL of acetone and added to the reaction in one portion at room temperature. After 30 minutes the reaction was diluted with ethyl acetate and the organic layer was separated. The aqueous layer was then extracted with ethyl acetate. The organic layers were combined, dried over magnesium sulfate, filtered and concentrated. The resulting residue was absorbed onto silica and then purified by silica gel flash chromatography (0-50% ethyl acetate in heptanes) to provide the title compound. MS (ESI+) m/z 148.08 (M+H).

reactant | Potassium nitrosodisulfonate | 172 mmol, 46.1 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | 7-Methylindoline | 78 mmol, 10.4 g | CC=1C=CC=C2CCNC12 | C9H11N
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Methyl-1H-indol-5-ol | CC=1C=C(C=C2C=CNC12)O | C9H9NO
